US08193349B2
To a crude mixture of N-benzyl-3-benzoyloxypyrrolidine (114 mg, 0.41 mmol) in dichloromethane (1 mL) is added α-chloroethyl chloroformate (57 μL, 0.49 mmol) at 0° C., and the mixture is stirred for 1 hour while warming to room temperature. After removing dichloromethane, resulting mixture is diluted with MeOH. The reaction mixture is heated to 80° C. for 0.5 hour. After cooling to room temperature, solvent is evaporated under reduced pressure to obtain (S)-(−)-3-benzoyloxypyrrolidine which is used for next reaction without further purification.

reactant | N-benzyl-3-benzoyloxypyrrolidine | 0.41 mmol, 114 mg | C(C1=CC=CC=C1)N1CC(CC1)OC(C1=CC=CC=C1)=O | C18H19NO2
reactant | α-chloroethyl chloroformate | 0.49 mmol, 57 μL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | MeOH | CO | CH4O
product | (S)-(−)-3-benzoyloxypyrrolidine | C(C1=CC=CC=C1)(=O)O[C@@H]1CNCC1 | C11H13NO2
